US07985762B2
To a solution of sodium metal (52 mg, 2.3 mmol) in ethanol was added 2-nitropropane (0.23 g, 2.4 mmole) followed by the addition of 3-chloro-5-methylbenzylbromide (0.5 g, 2.3 mmol). The reaction was allowed to stir for 3 hours and the precipitate formed was filtered off. The filtrate was concentrated under reduced pressure, redissolved in diethylether and washed with 1N sodium hydroxide (twice), water, and dried over sodium sulfate, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified via silica gel chromatography using 10% dichloromethane and 90% petroleum ether, to give 0.15 g of 3-chloro-5-methylbenzaldehyde (42%). 1H-NMR (CDCl3): 2.46 (s, 3H) 7.43(s, 1H) 7.56 (s, 1H) 7.68(s, 1H), 9.92 (s, 1H).

reactant | sodium | 2.3 mmol, 52 mg | [Na] | Na
reactant | 2-nitropropane | 2.4 mmole, 0.23 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 3-chloro-5-methylbenzylbromide | 2.3 mmol, 0.5 g | ClC=1C=C(CBr)C=C(C1)C | C8H8BrCl
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-5-methylbenzaldehyde | 0.15 g, 42% | ClC=1C=C(C=O)C=C(C1)C | C8H7ClO
